US09145415B2
To a solution of 4-cyanotetrahydro-2H-pyrane-4-carboxylic acid (1.69 g) synthesized according to the method described in Journal of the American Chemical Society, 1942, vol. 64, p. 1672 in tetrahydrofuran (20 mL) and tert-butanol (80 mL), diphenylphosphonyl azide (2.32 mL) and triethylamine (1.51 mL) were added at room temperature, and the mixture was stirred at 80° C. for 3 hours. The reaction mixture was cooled to room temperature, and then ethyl acetate and saturated aqueous sodium chloride were added. The organic layer was separated, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent, 100 to 0% hexane in ethyl acetate) to obtain tert-butyl (4-cyanotetrahydro-2H-pyran-4-yl)carbamate (G14, 1.38 g).

reactant | 4-cyanotetrahydro-2H-pyrane-4-carboxylic acid | 1.69 g | C(#N)C1(CCOCC1)C(=O)O | C7H9NO3
reactant | diphenylphosphonyl azide | 2.32 mL | C1=CC=C(C=C1)P(=O)(C2=CC=CC=C2)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 1.51 mL | C(C)N(CC)CC | C6H15N
reactant | sodium chloride | [Cl-].[Na+]
reactant | tert-butanol | 80 mL | C(C)(C)(C)O | C4H10O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl (4-cyanotetrahydro-2H-pyran-4-yl)carbamate | 1.38 g | C(#N)C1(CCOCC1)NC(OC(C)(C)C)=O | C11H18N2O3
